US05710138
d) (6-Nitro-2,3-dioxo-1,2,3,4-tetrahydrobenzo[f]quinoxalin-1-yl)-methanephosphonic acid diethyl ester
100 mg of (2-amino-4-nitro-1-naphthylamino)-methanephosphonic acid diethyl ester is dissolved in a few ml of tetrahydrofuran and treated with 95 microliters of distilled ethyloxalyl chloride and 118 microliters of triethylamine at ice-bath temperature. The solution is stirred first to room temperature and then the reaction is allowed to be completed at 55° oil bath temperature. The batch is concentrated by evaporation, taken up in ethyl acetate and washed with brine, dried and spun in. The crude product is chromatographed on silica gel with ethanol as mobile solvent. 76 mg or 67% of theory of product is obtained as polar fraction. NMR (DMSO,Delta in ppm): 1.03 (6H tr), 3.8 (4H dq), 4.93 (2H d), 7.73 (2H dd), 8.2, 8.35, 8.47 each 1H.

reactant | (2-amino-4-nitro-1-naphthylamino)-methanephosphonic acid diethyl ester | 100 mg | C(C)OP(OCC)(=O)CNC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])N | C15H20N3O5P
reactant | ethyloxalyl chloride | 95 microliters | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | triethylamine | 118 microliters | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (6-Nitro-2,3-dioxo-1,2,3,4-tetrahydrobenzo[f]quinoxalin-1-yl)-methanephosphonic acid diethyl ester | C(C)OP(OCC)(=O)CN1C(C(NC=2C=C(C3=C(C12)C=CC=C3)[N+](=O)[O-])=O)=O | C17H18N3O7P
